US07446102B2
tert-Butyl[(1S)-4-[(tert-butoxycarbonyl)amino]-1-(hydroxymethyl)butyl]carbamate
91 mg (0.90 mmol) of 4-methylmorpholine and 98 mg (0.90 mmol) of ethyl chloroformate are added to a solution of 300 mg (0.90 mmol) of N2,N5-bis(tert-butoxycarbonyl)-L-ornithine in 10 ml of tetrahydrofuran at −10° C., and the mixture is stirred for 30 min. At this temperature, 1.81 ml (1.81 mmol) of a 1M solution of lithium aluminum hydride in tetrahydrofuran are slowly added dropwise. The mixture is slowly warmed to RT and stirred at RT for 12 h. While cooling in ice, 0.1 ml of water and 0.15 ml of a 4.5% sodium hydroxide solution are cautiously added, and the mixture is stirred at RT for a further 3 h. The mixture is filtered and the filtrate is concentrated in vacuo. The residue is dissolved in ethyl acetate, washed with water, dried over magnesium sulfate and again evaporated to dryness in vacuo. The product is reacted without further purification.

reactant | 4-methylmorpholine | 0.90 mmol, 91 mg | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.90 mmol, 98 mg | ClC(=O)OCC | C3H5ClO2
reactant | N2,N5-bis(tert-butoxycarbonyl)-L-ornithine | 0.90 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
product | tert-Butyl[(1S)-4-[(tert-butoxycarbonyl)amino]-1-(hydroxymethyl)butyl]carbamate | C(C)(C)(C)OC(N[C@@H](CCCNC(=O)OC(C)(C)C)CO)=O | C15H30N2O5
